* hbt_diff_pair — generated from DeviceSpecs; do not edit by hand
.SUBCKT hbt_diff_pair outp inp e1 outn inn e2
Q1 outp inp e1 sub npn13G2 le=0.9u we=0.07u Nx=1 m=1
Q2 outn inn e2 sub npn13G2 le=0.9u we=0.07u Nx=1 m=1
.ENDS hbt_diff_pair
